US06683183B2
7-(3,5-Dimethoxy-phenyl)-5-ethyl-3-methylsulfanyl-5H-pyrido[2,3-e]-1,2,4-triazin-6-ylideneamine
To a solution of 5.0 g (25.2 mmol) of 5-ethylamino-3-methylsulfanyl-1,2,4-triazine-6-carbaldehyde in 125 mL of THF was added 6.7 g (37.8 mmol) of 3,5-dimethoxyphenylacetonitrile followed by 17.4 g (126.1 mmol) of potassium carbonate. The reaction mixture was warmed at 65° C. for 2 days, concentrated under vacuum, diluted with ethyl acetate, and washed three times with a saturated solution of sodium bicarbonate, once with water and brine. The organic phase was dried over magnesium sulfate, filtered, decolorized with charcoal, filtered through celite, and concentrated to give a dark orange oil. The crude oil was chromatographed through silica eluted with 2:2:6 to 2:3:5 dichloromethane/ethyl acetate/hexane to give 5.4 g (59%) of the title compound as a yellow amorphous solid. MS (APCI) (m+1)/z 358.1.

reactant | 5-ethylamino-3-methylsulfanyl-1,2,4-triazine-6-carbaldehyde | 25.2 mmol, 5.0 g | C(C)NC=1N=C(N=NC1C=O)SC | C7H10N4OS
reactant | 3,5-dimethoxyphenylacetonitrile | 37.8 mmol, 6.7 g | COC=1C=C(C=C(C1)OC)CC#N | C10H11NO2
reactant | potassium carbonate | 126.1 mmol, 17.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 7-(3,5-Dimethoxy-phenyl)-5-ethyl-3-methylsulfanyl-5H-pyrido[2,3-e]-1,2,4-triazin-6-ylideneamine | 5.4 g, 59% | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=N2)SC)N(C1=N)CC | C17H19N5O2S
